US08809539B2
Anhydrous aluminum chloride (6.0 g, 0.045 mol) is added portionwise to a mixture of 4-fluorobiphenyl (4.0 g, 0.023 mol) and acetyl chloride (4.0 g, 0.051 mol) in dichloromethane (40 mL) at 5° C. The reaction mixture is stirred for 3 hours at room temperature, then quenched with demineralized water (20 mL) and dichloromethane. The organic layer is separated and concentrated under reduced pressure. Tetrahydrofuran (40 mL) is added to the residue. An aqueous solution (12 mL) of sodium hydroxide (4.0 g, 0.1 mol) followed by potassium permanganate (4.0 g, 0.025 mol) are added. The reaction mixture is stirred overnight at room temperature and filtered through celite bed. Filtrate is concentrated, Demineralized water (20 mL) is added to the residue and pH is brought to ˜2 with 1N HCl. Aqueous layer is extracted with ethyl acetate (3×20 mL). Combined ethyl acetate layers are washed with brine (1×15 mL) and dried over sodium sulphate. Removal of ethyl acetate gives crude material which is purified by column chromatography (silica gel 230-400 mesh, ethyl acetate:n-hexane) to give 4′-fluorobiphenyl-4-carboxylic acid.

reactant | aluminum chloride | 0.045 mol, 6.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-fluorobiphenyl | 0.023 mol, 4.0 g | FC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9F
reactant | acetyl chloride | 0.051 mol, 4.0 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydroxide | 0.1 mol, 12 mL, 4.0 g | [OH-].[Na+]
reactant | potassium permanganate | 0.025 mol, 4.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4′-fluorobiphenyl-4-carboxylic acid | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9FO2
